US05254755
To prepare 2-trifluoromethyl-1,1,1,3,4,4,5,5,5-nonafluoro-2-pentanol, commercially available hexafluoropropene may be oligomerized with commercially available trimethylamine in a dipolar aprotic solvent such as commercially available tetrahydrofuran to provide (CF3)2C:CFCF2CF3 which is then reacted with commercially available hydrogen fluoride to yield 2-trifluoromethyl-1,1,1,3,3,4,4,5,5,5-decafluoropentane as taught by W. Brunskill et al., "Anionic Oligomerisation of Hexafluoropropene: Fission of a Carbon-Carbon Bond by Fluoride Ion", Chemical Communications, 1444 (1970). The 2-trifluoromethyl-1,1,1,3,3,4,4,5,5,5-decafluoropentane may then be dehydrohalogenated and then reacted with sulfuric acid and then water to form 2-trifluoromethyl-1,1,1,3,4,4,5,5,5-nonafluoro-2-pentanol.

reactant | 2-trifluoromethyl-1,1,1,3,4,4,5,5,5-nonafluoro-2-pentanol | FC(C(C(F)(F)F)(C(C(C(F)(F)F)(F)F)F)O)(F)F | C6H2F12O
reactant | hexafluoropropene | FC(C(=C(F)F)F)(F)F | C3F6
reactant | trimethylamine | CN(C)C | C3H9N
reactant | hydrogen fluoride | F | FH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-trifluoromethyl-1,1,1,3,3,4,4,5,5,5-decafluoropentane | FC(C(C(F)(F)F)C(C(C(F)(F)F)(F)F)(F)F)(F)F | C6HF13
